US05559236
Toluene (30 ml) was added to 2.0 g (4.5 mmol) of 2-cyclopropyl-3-(2'-cyanobiphenyl-4-yl)methyl-6-bromo-7-methyl-3H-imidazo[4,5-b]pyridine, 1.24 g (27.0 mmol) of formic acid, 4.55 g (45.0 mmol) of triethylamine and 10% Pd-C (100 mg), followed by heating under reflux for 6 hours. After the reaction liquid was brought to room temperature and filtered to remove the catalyst, vacuum concentration was effected. Chloroform (50 ml) and water (50 ml) were added to the residue and the obtained mixture was caused liquid-liquid separation. The aqueous phase was further extracted with chloroform (30 ml) twice. The organic phases were combined, dried over anhydrous magnesium sulfate and subjected to vacuum concentration. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give 1.28 g of 2-cyclopropyl-3-(2'-cyanobiphenyl-4-yl)-methyl-7-methyl-3H-imidazo[4,5-b]pyridine (yield 78%).

reactant | 2-cyclopropyl-3-(2'-cyanobiphenyl-4-yl)methyl-6-bromo-7-methyl-3H-imidazo[4,5-b]pyridine | 4.5 mmol, 2.0 g | C1(CC1)C1=NC=2C(=NC=C(C2C)Br)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H19BrN4
reactant | formic acid | 27.0 mmol, 1.24 g | C(=O)O | CH2O2
reactant | triethylamine | 45.0 mmol, 4.55 g | C(C)N(CC)CC | C6H15N
reactant | Toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd-C | 100 mg | [Pd] | Pd
product | 2-cyclopropyl-3-(2'-cyanobiphenyl-4-yl)-methyl-7-methyl-3H-imidazo[4,5-b]pyridine | 1.28 g, yield 78% | C1(CC1)C1=NC=2C(=NC(=CC2C)C)N1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H20N4
